US08026372B2
H-Lys(Boc)-OH
A solution of di-t-butyl dicarbonate (6.0 g, 27.5 mmol) in THF (10 mL) was slowly added, stirring at 0° C. and maintaining pH 12 with aqueous sodium hydroxide, into a solution of L-lysine (4.0 g, 27.4 mmol) and benzotriazole (3.3 g, 27.7 mmol) in water (10 mL) and THF (11 mL) at pH 12. After 16 hours most of the THF was removed at reduced pressure and the remaining water solution was extracted 3 times with ethyl acetate. The solution was then treated with hydrochloric acid to pH 5.6, stirred overnight and filtered. The product (7.7 g, 92%) is the complex 1/2 benzotriazole with H-Lys(Boc)-OH (1H-NMR, 13C-NMR, LC-MS).

reactant | di-t-butyl dicarbonate | 27.5 mmol, 6.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | L-lysine | 27.4 mmol, 4.0 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | benzotriazole | 27.7 mmol, 3.3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | H-Lys(Boc)-OH | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
